US05935952
In 25 ml of N,N-dimethylformamide was dissolved 2.30 g of 2-(p-toluenesulfonyl)-5-bromoisoindoline, and 1.51 g of silver (I) oxide and 0.75 g of tetrakis(triphenylphosphine)palladium (0) were added to the solution, after which the resulting mixture was stirred at 100° C. for five minutes under a nitrogen atmosphere. Subsequently, to this reaction mixture was added 1.54 g of ethyl 1-cyclopropyl-6-fluoro-8-methyl-7-tributylstannyl-1,4-dihydro-4-oxoquinoline-3-carboxylate dissolved in 5 ml of N,N-dimethylformamide, and resulting mixture was stirred at 100° C. for 15 minutes. The reaction mixture was added to a mixed solvent of 50 ml of ethyl acetate and 100 ml of water, and the pH was adjusted to 2 with 2N hydrochloric acid, after which insolubles were removed by filtration. The organic layer formed was separated, washed with a saturated saline solution and then dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluent: toluene:ethyl acetate=3:1), and diethyl ether was thereafter added thereto, after which the crystals formed were collected by filtration, to obtain 0.55 g of colorless, crystalline ethyl 1-cyclopropyl-6-fluoro-8-methyl-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate.

reactant | 2-(p-toluenesulfonyl)-5-bromoisoindoline | 2.30 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=CC=C(C=C2C1)Br)C | C15H14BrNO2S
reactant | ethyl 1-cyclopropyl-6-fluoro-8-methyl-7-tributylstannyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.54 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)[Sn](CCCC)(CCCC)CCCC)F)=O)C(=O)OCC
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | silver (I) oxide | 1.51 g | [Ag-]=O
catalyst | tetrakis(triphenylphosphine)palladium | 0.75 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 100 ml | O | H2O
product | ethyl 1-cyclopropyl-6-fluoro-8-methyl-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)C=1C=C2CN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)F)=O)C(=O)OCC | C31H29FN2O5S
